US06664256B1
Preparation of 6-(2,4-difluorophenoxy)-3-(3,4-ethylenedioxyphenyl)-4-(4-methoxyphenyl)pyridazine
In a similar manner as in Example 2, 6-chloro-3-(3,4-ethylenedioxyphenyl)-4-(4-methoxyphenyl)pyridazine (136 mg, 0.383 mmol) and 2,4-difluorophenol were reacted as starting materials at 120° C. for 8 hours and post-treatment was then conducted, whereby the title compound was obtained as colorless prisms (113 mg, 65.7%). Melting point: 158.0-159.5° C. (ethyl acetate-hexane).

reactant | 6-chloro-3-(3,4-ethylenedioxyphenyl)-4-(4-methoxyphenyl)pyridazine | 0.383 mmol, 136 mg | ClC1=CC(=C(N=N1)C1=CC2=C(C=C1)OCCO2)C2=CC=C(C=C2)OC | C19H15ClN2O3
reactant | 2,4-difluorophenol | FC1=C(C=CC(=C1)F)O | C6H4F2O
product | 6-(2,4-difluorophenoxy)-3-(3,4-ethylenedioxyphenyl)-4-(4-methoxyphenyl)pyridazine | FC1=C(OC2=CC(=C(N=N2)C2=CC3=C(C=C2)OCCO3)C3=CC=C(C=C3)OC)C=CC(=C1)F | C25H18F2N2O4
